US05204473
Piperazine (8.0 g, 92.9 mmol) is added over a 20 minute period to a mixture of 34.3 g (186 mmol) of cyanuric chloride, 19.7 g of sodium carbonate, 80 ml of water and 200 ml of toluene maintained at a temperature of 5°-10° C. The reaction mixture is stirred for 3 hours at ambient temperature. The precipitate is filtered and washed with water and toluene to obtain 26.0 g (73% yield) of N,N'-bis-(2,4-dichloro-1,3,5-triazin-6-yl)piperazine.

reactant | Piperazine | 92.9 mmol, 8.0 g | N1CCNCC1 | C4H10N2
reactant | cyanuric chloride | 186 mmol, 34.3 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | sodium carbonate | 19.7 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 80 ml | O | H2O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | N,N'-bis-(2,4-dichloro-1,3,5-triazin-6-yl)piperazine | 26.0 g, 73% yield | ClC1=NC(=NC(=N1)Cl)N1CCN(CC1)C1=NC(=NC(=N1)Cl)Cl | C10H8Cl4N8
